US07645753B2
3,5-Diethoxy-benzaldehyde [CAS RN 120355-79-5]
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3,5-dihydroxybenzaldehyde with ethyl iodide in DMF using K2CO3 as base.

reactant | 3,5-dihydroxybenzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | ethyl iodide | C(C)I | C2H5I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
product | 3,5-Diethoxy-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1)OCC | C11H14O3
